US07427635B2
To a stirred mixture of thiourea (8.87 g, 115 mmol) in ethanol (20.9 mL) was added 1-chloro-2,3-butanedione (13.90 g, 115 mmol) dropwise, a slight exothermic reaction resulted. The mixture was stirred at ambient temperature for 1 hour. The reaction mixture was filtered and the precipitate washed with ethyl ether (2×). The tan solid was air dried then dried under high vacuum overnight to give 1-(2-amino-thiazol-4-yl)-ethanone hydrochloride as a tan solid (21.5 g, 97%).

reactant | thiourea | 115 mmol, 8.87 g | NC(=S)N | CH4N2S
reactant | 1-chloro-2,3-butanedione | 115 mmol, 13.90 g | ClCC(C(C)=O)=O | C4H5ClO2
solvent | ethanol | 20.9 mL | C(C)O | C2H6O
product | 1-(2-amino-thiazol-4-yl)-ethanone hydrochloride | 21.5 g, 97% | Cl.NC=1SC=C(N1)C(C)=O | InChI=1S/C5H6N2OS.ClH/c1-3(8)4-2-9-5(6)7-4;/h2H,1H3,(H2,6,7);1H
